Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Percocet
 
Attending: ___.
 
Chief Complaint:
ABDOMINAL PAIN
 
Major Surgical or Invasive Procedure:
ERCP ___
Paracentesis ___ 

 
History of Present Illness:
___ PMH metastatic pancreatobiliary carcinoma on FOLFOX  c/b 
biliary obstruction + bacteremia (s/p ERCP/stent), PE, and 
malignant ascites (s/p weekly paracentesis), recurrent
cholangitis who p/w fever, abd pain and hypotension c/f
cholangitis

She has a history of recurrent cholangitis, with multi-drug
resistant bacteremia including VRE and Citrobacter. Her last
episode was in ___ when she p/w with fever and elevated Tbili.
She had an ERCP which exchanged her biliary stent on ___. Her
cultures were negative last hospitalization so she was treated
empirically with Zosyn/Daptomycin, then transitioned to cipro 
and
developed Cdiff requiring PO Vanc.

She had a paracentesis yesterday and was 
 feeling well and was doing much more activity than she usually 
 does.The son went to visit his mother and found that she wsa
moaning and c/o of chills and abdominal ___. The patient states
that the abdominal pain  developed this AM and was associated
with nausea and 1x episode of emesis. 

Prior to arriving to the ICU she was put on two pressors.
Intially was only on levo but prior to transport her pressures
dropped again so vasopressin was started. She denies having
abdominal pain and endorses mild nausea. She denies cp, SOB,
cough, dysuria, or urinary frequency. She is a0x3 but sleepy,
slow to respond and  responds in appropriately toquestions 
during
interview (how your your pain? ''yes'')

In the ED,  
- Initial Vitals:   TEMP 104, 150/80 later hyp to 81/52, 97% 
2LNC

- Labs: WBC 22.9 Lactate:8.9
- Imaging: CT ABD 
- Consults:  none
- Interventions: 2L NS, ZOSYN, LINEZOLID
 
Past Medical History:
As per admitting MD
PAST ONCOLOGIC HISTORY:  
- ___: Presented to ED with 6 months of worsening LLQ
abdominal pain, weight loss (~25lbs), early satiety, abdominal
distension, nausea, and constipation. Found to have large volume
ascites, peritoneal carcinomatosis, and R ovarian lesion. 
- ___: Omental biopsy and therapeutic paracentesis. Biopsy
returns suggestive of pancreaticobiliary/upper GI primary. 
- ___: MRCP with extensive omental and peritoneal disease
with associated pancreatic tail mass, porta hepatis soft tissue
mass with biliary obstruction and left portal vein partial
thrombosis
- ___: EGD/ERCP, pancreatic mass Bx c/w pancreatic
adenocarcinoma. Straight uncovered metal stent placed into the
right intrahepatic system
- ___: C1D1 FOLFIRINOX
- ___: Admission due to dehydration, diarrhea, fatigue,
and overall significant toxicity from FOLFIRINOX
- ___: C1D1 FOLFOX
- ___: C2D1 FOLFOX
- ___: admitted with febrile neutropenia (scheduled
Neulasta given on day of admission), altered mental status, 
found
to have cholangitis and enterococcal and citrobacter bacteremia.
ERCP ___ showed sludge but no pus, LFTs normalized after removal
of sludge. D/c on 14 days daptomycin IV and cipro PO. CT showed
subsegemental PE and left subclavian DVT (was on Xarelto for 
PVT;
however, it was held for ___ days every week for paracentesis);
continued on Xarelto with the plan to minimize interruptions of
anticoagulation
- ___:  C2D15 FOLFOX
- ___:  admitted for abdominal distention, SOB, fatigue. 
Received paracentesis with improvement in symptoms.  
- ___:  C3D1 FOLFOX
- ___ and ___:  telephone calls with weakness and fatigue
- ___:  admitted for abdominal distention, SOB, fatigue. 
Received paracentesis with improvement in symptoms.  
- ___:  Palliative care visit with ___.  Described
pain in lower pelvic area and thighs and lower back thought to 
be
due to ascites, suggested weekly paracentesis and low-dose
hydromorphone (0.25--0.5 PO QD/BID PRN).  Also noted anxiety and
stress. 
- ___ AM:  paracentesis for 4L

PAST MEDICAL HISTORY:  
-Pancreatic Cancer, as above
-PE, subclavian DVT and PVT on rivaroxaban
-HTN
-polymicrobial bacteremia

 
Social History:
___
Family History:
As per admitting MD
- Father with colon cancer in his ___
- Sister with breast cancer in her ___
 
Physical Exam:
ADMISSION PHYSICAL EXAM 
======================== 
VS: afebrile,  96/61 on 2 pressors, HR 100, 02 98 on 2L
GENERAL: frail appearing, sleepy
HEENT: PERRL,  Sclera anicteric and without injection. MMM.  
NECK: . No JVD.  
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.  
LUNGS: . wheezing at lung bases, rhonchi or rales. No increased
work of breathing.  
BACK: No spinous process tenderness. No CVA tenderness.  
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.  
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally.  
SKIN: Warm. Cap refill <2s. No rash.  
NEUROLOGIC: CN2-12 intact. . AOx3.  

DISCHARGE PHYSICAL EXAM
========================
24 HR Data (last updated ___ @ 753)
    Temp: 98.0 (Tm 99.3), BP: 98/58 (84-103/44-66), HR: 72
(61-88), RR: 18 (___), O2 sat: 99% (95-99), O2 delivery: ra  
GENERAL: Chronically ill appearing older woman laying in bed.
Alert and interactive 
HEENT: Sclerae anicteric, MMM  
CV: RRR. Normal S1/S2, no murmurs, gallops, or rubs  
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
ABD: Abdomen soft, distended, nontender in all quadrants, no
rebound/guarding 
EXT: WWP, 2+ radial pulses bilaterally, 1+ ___ pitting edema
bilaterally, up to knee
SKIN: Warm and well perfused, no excoriations or lesions, no
rashes  
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric  
ACCESS: PORT
   
 
Pertinent Results:
ADMISSION LABS:
================
WBC 22.9 Hgb 9.2 Hct 29.9 Plt 102
___ 19.5 PTT 30.3 INR 1.8
LFTs: ALT 149 AST 313 AP 836 Tbili 5.8 Dbili 3.3 Albumin 2.5
Ca 8.1 Mg 1.7 Phos 5.2
Na 136 K 5.7 Cl 98 Bicarb 15 BUN 10 Cr 1.1 Glucose 107 AG 23

Trop-T 1.29 --> 1.43 --> 1.38
Lactate 8.9 --> 6.1 --> 6.2 --> 5.0 --> 4.5 --> 2.9 --> 1.9 --> 
2.1
pH 7.34 pCO2 35 pO2 43 Bicarb 20

ALT 122
AST 230
AP 540
LDH 433
Tbili 5.4

MICRO:
=======
___ 12:15 pm BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___: 
      KLEBSIELLA OXYTOCA.    FINAL SENSITIVITIES. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             KLEBSIELLA OXYTOCA
                             |   
AMPICILLIN/SULBACTAM--     8 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

REPORTS:
=========
___ CTAP
IMPRESSION: 
1. In comparison to the study dated ___, there has 
been an 
interval increase in the degree of intra-abdominal ascites. 
2. Stable pancreatic mass measuring up to 2.2 cm as described 
above. 
3. Chronic splenic vein thrombosis with multiple perigastric and 
perisplenic 
ascites as described above. 
4. Common bile duct stent is in unchanged position with 
intrahepatic biliary 
ductal dilatation as described above. 
5. Left pleural effusion is slightly larger in comparison to 
prior. 

___ ERCP:
IMPRESSIONS:
Successful ERCP with stent clean. The metal stent was completely 
occluded, with purulent material draining from the stent. 
Balloon sweeps removed a copious amount of purulent material and 
sludge. The stent was widely patent at the conclusion of the 
procedure.

___ TTE
IMPRESSION: Moderate LV systolic dysfunction with regional wall 
motion abnormality consistent
with multivessel disease or atypical stress cardiomyopathy. 
Borderline RV function. Trace aortic
regurgitation. Large left pleural effusion.
Compared with the prior TTE ___ LV Function is less 
vigorous and RWMA are new

Paracentesis ___: IMPRESSION: 
1. Technically successful ultrasound guided diagnostic and 
therapeutic 
paracentesis. 2. 5 L of fluid were removed and sent for 
analysis. 

DISCHARGE LABS:
======================
___ 09:10AM BLOOD WBC-12.6* RBC-2.57* Hgb-8.0* Hct-26.4* 
MCV-103* MCH-31.1 MCHC-30.3* RDW-19.2* RDWSD-65.4* Plt Ct-98*
___ 05:08AM BLOOD ___ PTT-25.4 ___
___ 05:08AM BLOOD Glucose-77 UreaN-3* Creat-0.7 Na-139 
K-4.1 Cl-107 HCO3-24 AnGap-8*
___ 05:08AM BLOOD ALT-27 AST-27 AlkPhos-229* TotBili-0.8
___ 05:08AM BLOOD Calcium-7.8* Phos-3.0 Mg-1.9
 
Brief Hospital Course:
Ms. ___ is a ___ y/o F with a medical history notable for 
metastatic stage IV pancreatic adenocarcinoma on FOLFOX c/b 
biliary obstruction and bacteremia (s/p stent placement in 
___, replaced several months later, prior blood cultures 
positive for VRE and CTX-R citrobacter), recurrent malignant 
ascites (s/p weekly paracentesis, most recently ___, malignant 
pleural effusions, portal vein thrombosis on apixaban, who 
presented with abdominal pain, confusion, fever and hypotension 
c/f acute cholangitis c/b septic shock on levophed and 
vasopressin for pressor support, now s/p ERCP with removal of 
purulent material occluding CBD stent, hospital course c/b GNR 
bacteremia on Zosyn and newly reduced EF by TTE, concerning for 
STEMI in the PDA distribution. 

ACUTE ISSUES 
======================= 
# SEPTIC SHOCK
# HEPATOBILIARY INFECTION
# GNR BACTEREMIA
History of recurrent cholangitis ___ biliary stent obstruction. 
Presented with abdominal pain, confusion, hypotension, fevers, 
leukocytosis, and lactic acidosis concerning for acute 
cholangitis c/b sepsis, s/p ERCP ___ with adequate source 
control and removal of biliary sludge occluding biliary stent. 
She was started on Zosyn for broad spectrum antimicrobial 
coverage. Her symptoms began to improve with objective clinical 
markers including a downtrending leukocytosis and resolving 
mixed cholestatic and hepatocellular transaminitis. Her initial 
set of blood cultures grew klebsiella oxytoca which was pan 
sensitive. She was switched to Ceftriaxone on ___ and then 
transitioned to ciprofloxacin for a 10 day course to finish on 
___ per Infectious Diseases. ERCP followed along and 
recommended the patient have a percutaneous biliary drainage, 
which the patient refused at this time. She was initially on 
levophed and vasopressin for blood pressure support, which was 
later weaned after she was started on midodrine for additional 
support. Surveillance cultures were drawn daily until no growth 
was detected. She had an A-line which was removed on ___. MAPs 
goal was set to above 60, which the patient maintained and was 
transitioned to midodrine. She was initially enrolled in the 
___ trial and was resuscitated the first 24 hours according 
to the protocol. Per Infectious Diseases, she was started on 
oral Bactrim DS 1 tab per day when she finishes ciprofloxacin to 
prevent future cholangitis. She should have a CBC, chem7, and 
LFTs drawn 7 days after starting Bactrim. 

# MYOCARDIAL INFARCTION
# New HFrEF
Patient presented without chest pain or cardiovascular risk 
factors (does not have HTN, DM or dyslipidemia, no prior 
documented MI or CAD), however degree of troponinemia is 
worrisome (1.29->1.43->1.38), and unusual for a type II NSTEMI 
iso demand ischemia from a high output state such as her initial 
sepsis. Notably, TTE with findings of a newly reduced EF 
___, down from 67% by her most recent TTE this year) and 
regional wall motion abnormalities concerning for missed MI. 
Consulted cardiology who noted ST elevations in the PDA 
distribution, c/w patient's RWMA on TTE and reduced EF. Did not 
recommend any additional medical optimization given patient's 
coagulopathy, gram negative sepsis and pressor requirement at 
the time. Additionally, did not recommend cardiac 
catheterization. Held aspirin in the setting of elevated INR and 
low platelets. Held statin in the setting of transaminitis. She 
should have a repeat echocardiogram as an outpatient and 
consider starting a beta blocker when she is off of midodrine. 
She had no volume overload. 

# TRANSAMINITIS
Mixed cholestatic and hepatocellular picture. Likely iso acute 
liver injury from septic shock and hepatobiliary infection. Also 
has a history of portal vein thrombosis, but on anticoagulation 
for this. We trended daily LFTs, which downtrended and 
normalized upon discharge.

# STAGE IV METASTATIC PANCREATIC ADENOCARCINOMA
# MALIGNANT ASCITES
Had a diagnostic paracentesis in the ED which was negative for 
SBP (PMNs 178, normal gram stain). Peritoneal fluid cultures 
with no growth. Pancreatic lesion appears stable according to CT 
imaging with no interval changes. Gets weekly paracentesis with 
~4L of fluid usually removed. Currently on C4 FOLFOX. 
Communicated with oncologist Dr. ___ chemotherapy. She 
underwent therapeutic paracentesis on ___ with 5L removed that 
did not have SBP. She received 37.5g 25% albumin. She will 
continue to receive weekly paracentesis as an outpatient. 

# THROMBOCYTOPENIA
# ANEMIA
Anemia is stable. Thrombocytopenia likely in the setting of 
sepsis and GNR bacteremia. Initially concerning for possible 
MAHA or consumptive coagulopathy given elevated INR and LDH, but 
haptoglobin is slightly elevated above normal as is her
fibrinogen, which makes a DIC like picture less likely. Unlikely 
heparin induced thrombocytopenia given the absence of new or 
progressive arterial or venous thrombosis, no known prior 
heparin exposure in the last month after chart biopsy. Remained 
stable. 

# ELEVATED INR
Likely ___ acute liver injury and malnutrition. Unlikely 
consumptive coagulopathy, patient not on warfarin, acute liver 
failure (no encephalopathy). No e/o bleeding, hemoglobin stable. 
We continued to monitor daily coagulation profile with 
resolution. 

CHRONIC ISSUES 
======================= 
# PORTAL VEIN THROMBOSIS
# HX VTE
On rivaroxaban. Restarted after she had her ERCP. 

# MALNUTRITION
Pt with history of significant weight loss and poor PO intake. 

# HX C DIFF COLITIS
Treating with Vancomycin dosing for prophylaxis while on 
systemic antibiotics. She should continue these until instructed 
to discontinue by Infectious Diseases. 

TRANSITIONAL ISSUES
====================
[] Consider drawing LFTs with weekly paracentesis to look for 
early signs of infection 
[] Discuss need percutaneous biliary drainage
[] Repeat TTE as an outpatient
[] Please wean midodrine off as tolerated
[] If patient's BP can tolerate it, start beta blockade for new 
HFrEF
[] Consider Cardiology referral for new diagnosis of heart 
failure 
[] Ensure Infectious Diseases follow-up is scheduled
[] Please determine need for ongoing c. diff prophylaxis with 
vancomycin 
[] Draw CBC, Chem10, LFTs on ___ 

ADVANCED CARE PLANNING:
========================
CODE: FULL
HCP: Name of health care proxy: ___ 
Relationship: son 
Phone number: ___ 
Alternate HCP: ___ sister ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ondansetron ODT 8 mg PO Q8H:PRN Nausea/Vomiting - First Line 
2. Pancrelipase 5000 1 CAP PO TID W/MEALS 
3. Pantoprazole 40 mg PO Q12H 
4. Prochlorperazine 10 mg PO Q6H:PRN Nausea/Vomiting - Second 
Line 
5. Rivaroxaban 20 mg PO DAILY 
6. Nystatin Oral Suspension 5 mL PO QID:PRN thrush 
7. Senna 17.2 mg PO BID:PRN Constipation - First Line 
8. Vitamin D 1000 UNIT PO DAILY 
9. Diphenoxylate-Atropine 1 TAB PO Q6H:PRN diarrhea 
10. Docusate Sodium 100 mg PO BID:PRN Constipation - Second Line 

11. LOPERamide 2 mg PO Q4H:PRN diarrhea 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO BID Duration: 9 Days 
Last day ___ 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth twice a day 
Disp #*17 Tablet Refills:*0 
2.  Midodrine 5 mg PO TID 
RX *midodrine 5 mg 1 tablet(s) by mouth three times a day Disp 
#*42 Tablet Refills:*0 
3.  Sulfameth/Trimethoprim DS 1 TAB PO/NG DAILY 
First day: ___ 
RX *sulfamethoxazole-trimethoprim 800 mg-160 mg 1 tablet(s) by 
mouth once a day Disp #*30 Tablet Refills:*0 
4.  Vancomycin Oral Liquid ___ mg PO BID C. diff ppx 
RX *vancomycin 125 mg 1 capsule(s) by mouth twice a day Disp 
#*60 Capsule Refills:*0 
5.  Diphenoxylate-Atropine 1 TAB PO Q6H:PRN diarrhea  
6.  LOPERamide 2 mg PO Q4H:PRN diarrhea  
7.  Nystatin Oral Suspension 5 mL PO QID:PRN thrush  
8.  Ondansetron ODT 8 mg PO Q8H:PRN Nausea/Vomiting - First Line 
 
9.  Pancrelipase 5000 1 CAP PO TID W/MEALS  
10.  Pantoprazole 40 mg PO Q12H  
11.  Prochlorperazine 10 mg PO Q6H:PRN Nausea/Vomiting - Second 
Line  
12.  Rivaroxaban 20 mg PO DAILY  
13.  Senna 17.2 mg PO BID:PRN Constipation - First Line  
14.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
=================
Septic shock ___ cholangitis
Metastatic pancreatic cancer
Malignant ascites
STEMI
HFrEF
Coagulopathy 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

It was a pleasure taking care of you at the ___ 
___!  

Why was I admitted to the hospital?  
==================================
- You were admitted because you were found to have an infection 
in your liver. 

What happened while I was in the hospital?  
===========================================
- You were given IV antibiotics for an infection in your liver 
that spread to your blood

- You were give medications for low blood pressure

- You underwent a procedure called an ERCP (Endoscopic 
Retrograde Cholangio-Pancreatography) to clean out the stents in 
your liver

- You were found to have a heart attack and a weak heart. You 
were seen by Cardiology for this

- You had a procedure done called a paracentesis 

What should I do after leaving the hospital?  
============================================
-  Please take your medications as listed in discharge summary 
and follow up at the listed appointments. 

Thank you for allowing us to be involved in your care, we wish 
you all the best!  

Sincerely,

Your ___ Healthcare Team  

 
 
Followup Instructions:
___